* Wood Moisture AFE -- AC excitation + wood capacitance (settling study)
*
* The firmware toggles GPIO9 (a unipolar 0<->3.3V square wave) instead of
* holding DC, to avoid polarizing/electrolyzing the wood-electrode interface.
* That interface plus the wood bulk present a capacitance C_wood in parallel
* with R_wood, so V(sigb) does NOT step instantly on each edge -- it charges
* with tau ~ C_wood * (R_wood || (R1+R2)). The ADC must dwell long enough after
* an edge before it samples, and the required dwell grows as the wood dries
* (higher R_wood). This netlist sweeps wet/mid/dry and reports the settled
* reading vs a too-early sample.
*
* Cw is an estimate (double-layer + bulk) -- tune it to your measured settling.

.param R1=10k R2=100k Ron=70
.param Cw=10n
.step param Rw list 8k 100k 1500k          ; wet(28%) / mid(13%) / dry(6%)

VEXC exc  0    PULSE(0 3.3 100u 1u 1u 10m 20m)
R1   exc  na   {R1}
RonA na   pa   {Ron}
Rw   pa   pb   {Rw}
Cw   pa   pb   {Cw}
RonB pb   sigb {Ron}
R2   sigb 0    {R2}

.tran 0 20m 0 5u
.meas TRAN Vsettled FIND V(sigb) AT 9.9m     ; long dwell -> true divider value
.meas TRAN Vearly   FIND V(sigb) AT 300u     ; 200us after the edge -> sampled too soon
.meas TRAN dwell_err PARAM Vsettled-Vearly   ; reading error if you sample at 200us
.end
