* OLD single-MUX AFE -- the design this project replaced.
*
* Excitation and ADC sense share one SIG pin on a single CD74HC4067. The 15
* unselected channels each leak (~100-500 nA @ 3.3V). Because excite and sense
* share SIG, that leakage forms a path that BYPASSES R_wood -- a direct
* measurement error, worst at the high resistances that represent dry wood.
*
* Modeled as an aggregate leakage shunt Rlk from the excited node (na) to the
* sense node (sigb), in parallel with the wood. Rlk=500k approximates 16 channels
* of off-leakage. Compare V(adc) here against wood_afe.net at the dry end:
*
*   R_wood     dual-MUX (true)   single-MUX (Rlk=500k)
*   100k       1.570 V           1.706 V
*   300k       0.805 V           1.109 V
*   500k       0.541 V           0.916 V
*   750k       0.384 V           0.805 V   <- reads like 9% MC (truly 7%)
*   1.5M       0.205 V           0.680 V   <- reads like ~9% MC (truly 6%)
*
* i.e. several % MC of error in the dry range -- exactly why the dual-MUX
* redesign separates the excite and sense SIG nodes.

.param R1=10k R2=100k Ron=70 Rlk=500k
.step param Rw list 100k 300k 500k 750k 1500k

VEXC exc  0    DC 3.3
R1   exc  na   {R1}
RonA na   pa   {Ron}
Rw   pa   pb   {Rw}
RonB pb   sigb {Ron}
R2   sigb 0    {R2}
Rleak na   sigb {Rlk}      ; leakage shunt around the wood (single-MUX only)

.tran 1u 2m
.meas TRAN Vadc FIND V(sigb) AT 1m
.end
